** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc16.sch
.subckt lzc16 A15 Y4 A14 A13 A12 A11 A10 A9 A8 Y3 A7 A6 A5 Y2 A4 A3 A2 A1 A0 Y1 Y0
*.PININFO A15:I A14:I A13:I A12:I A11:I A10:I A9:I A8:I A7:I A6:I A5:I A4:I A3:I A2:I A1:I A0:I Y4:O Y3:O Y2:O Y1:O Y0:O
x1 A15 A14 net1 A13 A12 net2 A11 A10 net4 A9 A8 net6 lzc8
x2 A7 A6 net13 A5 A4 net3 A3 A2 net5 A1 A0 net7 lzc8
x3 net1 net13 VGND VNB VPB VPWR net12 sky130_fd_sc_hd__or2_1
x4 net1 VGND VNB VPB VPWR net8 sky130_fd_sc_hd__inv_1
x5 net6 net7 net8 VGND VNB VPB VPWR net11 sky130_fd_sc_hd__mux2_1
x6 net4 net5 net8 VGND VNB VPB VPWR net10 sky130_fd_sc_hd__mux2_1
x7 net2 net3 net8 VGND VNB VPB VPWR net9 sky130_fd_sc_hd__mux2_1
x8 net8 net12 VGND VNB VPB VPWR Y3 sky130_fd_sc_hd__and2_1
x9 net9 net12 VGND VNB VPB VPWR Y2 sky130_fd_sc_hd__and2_1
x10 net10 net12 VGND VNB VPB VPWR Y1 sky130_fd_sc_hd__and2_1
x11 net11 net12 VGND VNB VPB VPWR Y0 sky130_fd_sc_hd__and2_1
x12 net12 VGND VNB VPB VPWR Y4 sky130_fd_sc_hd__inv_1
.ends

* expanding   symbol:  lzc8.sym # of pins=12
** sym_path: /home/me/Project/sky130_lzc16/xschem/lzc8.sym
** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc8.sch
.subckt lzc8 A7 A6 V A5 A4 P2 A3 A2 P1 A1 A0 P0
*.PININFO A7:I A6:I A5:I A4:I A3:I A2:I A1:I A0:I V:O P2:O P1:O P0:O
x1 A7 net1 A6 net2 A5 A4 net5 lzc4
x2 A3 net3 A2 net4 A1 A0 net6 lzc4
x3 net1 net3 VGND VNB VPB VPWR V sky130_fd_sc_hd__or2_1
x4 net1 VGND VNB VPB VPWR P2 sky130_fd_sc_hd__inv_1
x5 net2 net4 P2 VGND VNB VPB VPWR P1 sky130_fd_sc_hd__mux2_1
x6 net5 net6 P2 VGND VNB VPB VPWR P0 sky130_fd_sc_hd__mux2_1
.ends


* expanding   symbol:  lzc4.sym # of pins=7
** sym_path: /home/me/Project/sky130_lzc16/xschem/lzc4.sym
** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc4.sch
.subckt lzc4 A3 V A2 P1 A1 A0 P0
*.PININFO A3:I A2:I A1:I A0:I V:O P1:O P0:O
x1 A3 net1 A2 net3 lzc2
x2 A1 net2 A0 net4 lzc2
x3 net1 net2 VGND VNB VPB VPWR V sky130_fd_sc_hd__or2_1
x4 net1 VGND VNB VPB VPWR P1 sky130_fd_sc_hd__inv_1
x5 net3 net4 P1 VGND VNB VPB VPWR P0 sky130_fd_sc_hd__mux2_1
.ends


* expanding   symbol:  lzc2.sym # of pins=4
** sym_path: /home/me/Project/sky130_lzc16/xschem/lzc2.sym
** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc2.sch
.subckt lzc2 HI V LO P
*.PININFO HI:I LO:I V:O P:O
x1 HI LO VGND VNB VPB VPWR V sky130_fd_sc_hd__or2_1
x2 HI GND GND VDD VDD P sky130_fd_sc_hd__inv_1
.ends

