** sch_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc16.sch
**.subckt lzc16 A[15],A[14],A[13],A[12],A[11],A[10],A[9],A[8],A[7],A[6],A[5],A[4],A[3],A[2],A[1],A[0] VDD GND
*+ Y[4],Y[3],Y[2],Y[1],Y[0]
*.ipin A[15],A[14],A[13],A[12],A[11],A[10],A[9],A[8],A[7],A[6],A[5],A[4],A[3],A[2],A[1],A[0]
*.ipin VDD
*.ipin GND
*.opin Y[4],Y[3],Y[2],Y[1],Y[0]
x1 A[15] A[14] A[13] A[12] A[11] A[10] A[9] A[8] net1 net2 VDD GND net4 net6 lzc8
x2 A[7] A[6] A[5] A[4] A[3] A[2] A[1] A[0] net13 net3 VDD GND net5 net7 lzc8
x3 net1 net13 GND GND VDD VDD net12 sky130_fd_sc_hd__or2_1
x4 net1 GND GND VDD VDD net8 sky130_fd_sc_hd__inv_1
x5 net6 net7 net8 GND GND VDD VDD net11 sky130_fd_sc_hd__mux2_1
x6 net4 net5 net8 GND GND VDD VDD net10 sky130_fd_sc_hd__mux2_1
x7 net2 net3 net8 GND GND VDD VDD net9 sky130_fd_sc_hd__mux2_1
x8 net8 net12 GND GND VDD VDD Y[3] sky130_fd_sc_hd__and2_1
x9 net9 net12 GND GND VDD VDD Y[2] sky130_fd_sc_hd__and2_1
x10 net10 net12 GND GND VDD VDD Y[1] sky130_fd_sc_hd__and2_1
x11 net11 net12 GND GND VDD VDD Y[0] sky130_fd_sc_hd__and2_1
x12 net12 GND GND VDD VDD Y[4] sky130_fd_sc_hd__inv_1
**.ends

* expanding   symbol:  lzc8.sym # of pins=7
** sym_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc8.sym
** sch_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc8.sch
.subckt lzc8 A[7] A[6] A[5] A[4] A[3] A[2] A[1] A[0] V P2 VDD GND P1 P0
*.opin V
*.opin P2
*.opin P1
*.opin P0
*.ipin VDD
*.ipin GND
*.ipin A[7],A[6],A[5],A[4],A[3],A[2],A[1],A[0]
x1 A[7] A[6] A[5] A[4] net1 VDD net2 GND net5 lzc4
x2 A[3] A[2] A[1] A[0] net3 VDD net4 GND net6 lzc4
x3 net1 net3 GND GND VDD VDD V sky130_fd_sc_hd__or2_1
x4 net1 GND GND VDD VDD P2 sky130_fd_sc_hd__inv_1
x5 net2 net4 P2 GND GND VDD VDD P1 sky130_fd_sc_hd__mux2_1
x6 net5 net6 P2 GND GND VDD VDD P0 sky130_fd_sc_hd__mux2_1
.ends


* expanding   symbol:  lzc4.sym # of pins=6
** sym_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc4.sym
** sch_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc4.sch
.subckt lzc4 A[3] A[2] A[1] A[0] V VDD P1 GND P0
*.ipin A[3],A[2],A[1],A[0]
*.opin V
*.opin P1
*.opin P0
*.ipin VDD
*.ipin GND
x1 A[3] net1 A[2] VDD net3 GND lzc2
x2 A[1] net2 A[0] VDD net4 GND lzc2
x3 net1 net2 GND GND VDD VDD V sky130_fd_sc_hd__or2_1
x4 net1 GND GND VDD VDD P1 sky130_fd_sc_hd__inv_1
x5 net3 net4 P1 GND GND VDD VDD P0 sky130_fd_sc_hd__mux2_1
.ends


* expanding   symbol:  lzc2.sym # of pins=6
** sym_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc2.sym
** sch_path: /home/me/group-02-vlsi-16-bit-zlc-counter/frontend/xschem/lzc2.sch
.subckt lzc2 HI V LO VDD P GND
*.ipin HI
*.ipin LO
*.opin V
*.opin P
*.ipin VDD
*.ipin GND
x1 HI LO GND GND VDD VDD V sky130_fd_sc_hd__or2_1
x2 HI GND GND VDD VDD P sky130_fd_sc_hd__inv_1
.ends

.end
